US07435837B2
To a suspension of potassium ferricyanide (57.00 g, 0.173 mol), potassium carbonate (24.00 g, 0.174 mol), hydroquinine anthraquinone-1,4-diyl diether (0.495 g, 0.578 mmol), and potassium osmate dihydrate (0.043 g, 0.117 mmol) in water:tert-butyl alcohol (1:1, 600 mL) cooled to 0° C. was slowly added via an addition funnel a solution of 1-allyl-2-(benzyloxy)-3-tert-butylbenzene (16.2 g, 0.058 mol) in tert-butyl alcohol (50 mL) and the reaction mixture was allowed to stir at 0° C. for 12 h. The reaction mixture was quenched by the addition of sodium sulfite. The reaction mixture was diluted with water (500 mL) and ethyl acetate (500 mL). The aqueous phase was separated and extracted with ethyl acetate (2×200 mL). The combined organic extracts were washed with saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 3:2) gave 16.75 g (92%, 32% ee) of (±)-3-[2-(benzyloxy)-3-tert-butylphenyl]propane-1,2-diol as a white solid. mp 79-81° C.; Anal. calcd. for C20H26O3: C, 76.4; H, 8.33. Found: C, 76.39; H, 8.22.

reactant | potassium carbonate | 0.174 mol, 24.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-allyl-2-(benzyloxy)-3-tert-butylbenzene | 0.058 mol, 16.2 g | C(C=C)C1=C(C(=CC=C1)C(C)(C)C)OCC1=CC=CC=C1 | C20H24O
reactant | water tert-butyl alcohol | 600 mL | O.C(C)(C)(C)O
solvent | tert-butyl alcohol | 50 mL | C(C)(C)(C)O | C4H10O
catalyst | potassium ferricyanide | 0.173 mol, 57.00 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | hydroquinine anthraquinone-1,4-diyl diether | 0.578 mmol, 0.495 g | CC[C@@H]1CN2CC[C@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=C6C(=C(C=C5)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC)C(=O)C1=CC=CC=C1C6=O | C54H56N4O6
product | (±)-3-[2-(benzyloxy)-3-tert-butylphenyl]propane-1,2-diol | 16.75 g, 92% | C(C1=CC=CC=C1)OC1=C(C=CC=C1C(C)(C)C)CC(CO)O | C20H26O3
